US04988681
Production of phthalidyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate.
Under an atmosphere of argon, 29 μl (0.22 millimole) of bromotrimethylsilane was added to a solution of 48 mg (0.11 millimole) of phthalidyl (Z)-3-cyclohexyl-2-(ethoxyisobutylphosphinoyl)methylpropenoate in 0.50 ml of dry dichloromethane, and the mixture was stirred at room temperature for 18 hours. To the reaction mixture were added 2.0 ml of ethyl acetate and 3.0 ml of a saturated aqueous solution of ammonium chloride, and the mixture was stirred at room temperature for 30 minutes. A saturated aqueous solution of ammonium chloride (3 ml) was added to the reaction mixture, and the mixture was extracted three times with 8 ml of ethyl acetate each time. The combined organic layers were dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by preparative thin-layer chromatography [silica gel 60 F254 made by E. Merck & Co.; dichloromethane/methanol/acetic acid (30:1:1)]to give 16 mg (yield 35%) of the captioned compound as a colorless oil. On standing, this compound solidified.

reactant | bromotrimethylsilane | 0.22 millimole, 29 μl | Br[Si](C)(C)C | C3H9BrSi
reactant | phthalidyl (Z)-3-cyclohexyl-2-(ethoxyisobutylphosphinoyl)methylpropenoate | 0.11 millimole, 48 mg | C1(CCCCC1)\C=C(\C(=O)OC1OC(=O)C2=CC=CC=C12)/CP(=O)(CC(C)C)OCC | C24H33O6P
reactant | ethyl acetate | 2.0 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
solvent | dichloromethane | 0.50 ml | ClCCl | CH2Cl2
solvent | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
product | phthalidyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate | 16 mg, yield 35% | C1(CCCCC1)\C=C(\C(=O)OC1OC(=O)C2=CC=CC=C12)/CP(=O)(CC(C)C)O | C22H29O6P
